US09382254B2
Step (iv): 2-((S)-2-Hydroxy-propionylamino)-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide
A mixture of 2-amino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide (6 g, 16.38 mmol), L-(−)-lactide (2.6 g, 18.02 mmol) and K2CO3 (2.49 g, 18.02 mmol) in MeOH (165 mL) is heated at 60° C. for 1 h. The resulting mixture is concentrated, taken up in EtOAc/water and acidified with aqueous 2 M HCl until pH˜4. The organic layer is separated and the aqueous further extracted with EtOAc (3×). The combined organic is dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica chromatography (EtOAc/petroleum ether; 1:1) followed by precipitation in DCM afford the desired compound.

reactant | 2-amino-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide | 16.38 mmol, 6 g | NC=1SC(=CC1C(=O)N)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C12H9F3N2O4S2
reactant | L-(−)-lactide | 18.02 mmol, 2.6 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | K2CO3 | 18.02 mmol, 2.49 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 165 mL | CO | CH4O
product | 2-((S)-2-Hydroxy-propionylamino)-5-(4-trifluoromethoxy-benzenesulfonyl)-thiophene-3-carboxylic acid amide | O[C@H](C(=O)NC=1SC(=CC1C(=O)N)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C | C15H13F3N2O6S2
